US09238647B2
Step E: Methyl 7-(4-fluorophenyl)-3-(2-hydroxy-2-methylpropyl)-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate
To a solution of methy 6-amino-4′-fluoro-5-[(2-hydroxy-2-methylpropyl)amino]biphenyl-3-carboxylate (180 mg, 0.542 mmol) in dichloromethane (16.2 mL) was added triethylamine (0.091 mL, 0.650 mmol) followed by triphosgene (80.0 mg, 0.271 mmol) in dichloromethane (5.42 mL). Reaction heated at 30° C. for 4 h. Reaction was cooled, diluted with saturated sodium bicarbonate and dichloromethane. Adjusted aqueous layer to pH=14. Wash aqueous with dichloromethane (5×). Combined organics were dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.05% NOH) gave the title compound (81.0 mg): LC-MS [M+1]=359.2.

reactant | methy 6-amino-4′-fluoro-5-[(2-hydroxy-2-methylpropyl)amino]biphenyl-3-carboxylate | 0.542 mmol, 180 mg | NC1=C(C=C(C=C1C1=CC=C(C=C1)F)C(=O)OC)NCC(C)(C)O | C18H21FN2O3
reactant | triethylamine | 0.650 mmol, 0.091 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.271 mmol, 80.0 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 16.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.42 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Methyl 7-(4-fluorophenyl)-3-(2-hydroxy-2-methylpropyl)-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 81.0 mg | FC1=CC=C(C=C1)C1=CC(=CC2=C1NC(N2CC(C)(C)O)=O)C(=O)OC | C19H19FN2O4
